US04094875
To a solution of p-cyanomethylphenyl isocyanate (3.75 g., 0.0237 mole) in 100 ml. of benzene was added 3-pyridyl carbinol (2.59 g., 0.0237 mole). An exothermic reaction occurred and a precipitate formed. The reaction mixture was heated to reflux then allowed to stand at ambient temperatures for 3 hrs. The solid was filtered off and dried to give 5.8 g. melting at 157°-161.5° C. The product is a 92% yield of 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate. Recrystallization from methanol gave a solid melting at 162°-163.5° C.

reactant | p-cyanomethylphenyl isocyanate | 0.0237 mole, 3.75 g | C(#N)CC1=CC=C(C=C1)N=C=O | C9H6N2O
reactant | 3-pyridyl carbinol | 0.0237 mole, 2.59 g | N1=CC(=CC=C1)CO | C6H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-pyridylmethyl N-(4-cyanomethylphenyl)carbamate | 92% yield | C(#N)CC1=CC=C(C=C1)NC(OCC=1C=NC=CC1)=O | C15H13N3O2
